US09303012B2
6-Cyclopropylmethoxy-5-(3,3-difluoro-azetidin-1-yl)-pyridine-2-carboxylic acid (1-acetyl-piperidin-4-yl)-cyclopropyl-amide
The title compound was synthesized in analogy to Example 47 b), using 6-(cyclopropylmethoxy)-5-(3,3-difluoroazetidin-1-yl)picolinic acid and 1-(4-(cyclopropylamino)piperidin-1-yl)ethanone (CAS 387358-46-5) as starting materials and isolated as colorless oil. MS (EI): m/e=449.6 [MH+].

reactant | 6-(cyclopropylmethoxy)-5-(3,3-difluoroazetidin-1-yl)picolinic acid | C1(CC1)COC1=C(C=CC(=N1)C(=O)O)N1CC(C1)(F)F | C13H14F2N2O3
reactant | 1-(4-(cyclopropylamino)piperidin-1-yl)ethanone | C1(CC1)NC1CCN(CC1)C(C)=O | C10H18N2O
product | 6-Cyclopropylmethoxy-5-(3,3-difluoro-azetidin-1-yl)-pyridine-2-carboxylic acid (1-acetyl-piperidin-4-yl)-cyclopropyl-amide | C(C)(=O)N1CCC(CC1)N(C(=O)C1=NC(=C(C=C1)N1CC(C1)(F)F)OCC1CC1)C1CC1 | C23H30F2N4O3
